US06277872B1
b) Preparation of 1-(2-cyanophenyl)-4-methylpiperazine
7.48 g of 1-(2-cyanophenyl)-piperazine are refluxed for one hour with 30 ml of formaldehyde and 30 ml of formic acid. The solvents are evaporated in vacuo and the residue is taken up in ether and mixed with water. The mixture is made alkaline with 20% sodium hydroxide solution, saturated with potassium carbonate and extracted with ether. The organic phase is dried over sodium sulphate and concentrated by evaporation in vacuo. To purify the residue it is chromatographed on silica gel with ethyl acetate/isopropanol (70:30, mixed with 1% of a 25% ammonia solution). Yield: 6.7 g (83% of theory).

reactant | 1-(2-cyanophenyl)-piperazine | 7.48 g | C(#N)C1=C(C=CC=C1)N1CCNCC1 | C11H13N3
reactant | formaldehyde | 30 ml | C=O | CH2O
solvent | formic acid | 30 ml | C(=O)O | CH2O2
product | 1-(2-cyanophenyl)-4-methylpiperazine | C(#N)C1=C(C=CC=C1)N1CCN(CC1)C | C12H15N3
